US07186714B2
N,N-Dimethylformamide (10 mL) was cooled to 0° C. and treated with phosphorous oxychloride (1.0 mL, 11 mmol). After the addition was complete, the mixture was warmed to room temperature and stirred for 10 minutes. To this was added 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine (1.15 g, 4.7 mmol) and the resulting solution was stirred overnight. Water was added to the reaction. The mixture was neutralized to pH 7 with ammonium hydroxide. The aqueous phase was extracted with dichloromethane (3×50 mL). The combined organics were washed with brine, dried over magnesium sulfate, filtered and concentrated. The residue was recrystallized from acetonitrile to give 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine-3-carbaldehyde (1.1 g, 85%) as a white solid. 1H NMR (CDCl3): δ 10.05 (s, 1H), 9.60 (d, 1H), 7.86 (q, 2H), 7.65 (d, 1H), 7.23 (t, 2H), 7.08 (t, 1H); 19F NMR (CDCl3) δ −110.8; MS m/z 275 (M+1).

reactant | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 11 mmol, 1.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine | 4.7 mmol, 1.15 g | ClC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)F | C13H8ClFN2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | Water | O | H2O
product | 8-chloro-2-(4-fluorophenyl)imidazo[1,2-α]pyridine-3-carbaldehyde | 1.1 g, 85% | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C=O | C14H8ClFN2O
